### PR TITLE
feat: udiv/urem bitblasting

### PR DESCRIPTION
**Pull request by bollu**
We introduce bitblasting lemmas for `udiv` and `umod`, which builds the circuit that computes `udiv` and `umod` as a shift-subtracter circuit. We follow the Bitwuzla implementation closely, and prove their algorithm correct by means of the standard division recurrence.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -429,6 +429,641 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+      exact mul_div_right q.toNat hd
+    · exact Nat.dvd_mul_right d.toNat q.toNat
+    · exact hrd
+    · exact hd
+  · apply BitVec.eq_of_toNat_eq
+    rw [toNat_umod]
+    replace hdqnr : (d.toNat * q.toNat + r.toNat) % d.toNat = n.toNat % d.toNat := by
+      simp [hdqnr]
+    rw [Nat.add_mod, Nat.mul_mod_right] at hdqnr
+    simp at hdqnr
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:497]: Non terminal simp.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    hwn := h.hwn,
+    hwrn := by have := h.hwrn; omega,
+    hd := h.hd,
+    hrd := h.hrd,
+    hrwr := by have := h.hrwr; omega,
+    hqwr := by have := h.hqwr; omega,
+    hdiv := h.hdiv
+  }
+
+def concatBit' (x : BitVec w) (b : Bool) : BitVec w :=
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:771]: Why is this labeled with a `'`? Is this not the only version here?

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:771]: We have a `concatBit` over in `BitVecor/Basic.lean` that is of type `BitVec w -> BitVec (w + 1)`. I chose not to use it, because it got me into cast hell (:

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
   · simp [of_length_zero]
   · simp [shiftLeftRec_eq]
 
+/- # udiv/urem recurrence for bitblasting -/
+
+/-
+r = n - d * q
+r = n - d * (∑ i, 2^i * q.getLsb i)
+
+-/
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:441]: This comment should either go, or have a bit more context

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+- Let `n = 0, d = 3`
+- If we choose `q = 2, r = 2`, then d * q + r = 6 + 2 = 8 ≃ 0 (mod 8) so satisfies.
+- But see that `q = 0, r = 0` also satisfies, as 0 * 3 + 0 = 0.
+- So for (`n = 0, d = 3`), both:
+    `q = 2, r = 2` as well as
+    `q = 0, r = 0` are solutions!
+
+It's easy to cook up such examples, by chosing `(q, r)` for a fixed `(d, n)`
+such that `(d * q + r)` overflows.
+-/
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:458]: It wouldn't hurt to have a bit more context to this counter-example, why do we care?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    (x + y) / z = x / z := by
+  refine Nat.div_eq_of_lt_le ?lo ?hi
+  · apply Nat.le_trans
+    · exact div_mul_le_self x z
+    · omega
+  · simp only [succ_eq_add_one, Nat.add_mul, Nat.one_mul]
+    apply Nat.add_lt_add_of_le_of_lt
+    · apply Nat.le_of_eq
+      exact (Nat.div_eq_iff_eq_mul_left hz hx).mp rfl
+    · exact hy
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:478]: Could you double check whether it exists? If not, this should be moved to a more appropriate file

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+theorem div_characterized_of_mul_add_toNat {d n q r : BitVec w} (hd : 0 < d)
+    (hrd : r < d)
+    (hdqnr : d.toNat * q.toNat + r.toNat = n.toNat) :
+    (n.udiv d = q ∧ n.umod d = r) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:483]: This theorem could use a docstring, to explain what exactly it's characterizing

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    rw [(toNat_eq _ _).mp hr]
+  rw [← hdiv, ← hmod] -- TODO: flip
+  rw [div_add_mod]
+
+theorem div_characterized_toNat_of_eq_udiv_of_eq_umod_of_lt {d n q r : BitVec w} (hd : 0 < d)
+    (hq : n.udiv d = q) (hr : n.umod d = r)
+    (hlt : d.toNat * q.toNat + r.toNat < 2^w) :
+    d * q + r = n := by
+  apply eq_of_toNat_eq
+  simp [toNat_add, toNat_mul]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:539]: We really should have a linter for non-terminal simps

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    (hq : n.udiv d = q) (hr : n.umod d = r) :
+    (d.toNat * q.toNat + r.toNat = n.toNat) := by
+  have hdiv : n.toNat / d.toNat = q.toNat := by
+    rw [← toNat_udiv] -- TODO: squeeze
+    rw [(toNat_eq _ _).mp hq]
+  have hmod : n.toNat % d.toNat = r.toNat := by
+    rw [← toNat_umod] -- TODO: squeeze
+    rw [(toNat_eq _ _).mp hr]
+  rw [← hdiv, ← hmod] -- TODO: flip
+  rw [div_add_mod]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:532]: There's a bunch of TODOs here

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    (hrd : r < d)
+    (hlt : d.toNat * q.toNat + r.toNat < 2^w) :
+    (n.udiv d = q ∧ n.umod d = r) ↔ (d * q + r = n) := by
+  constructor
+  · intros h; obtain ⟨h₁, h₂⟩ := h
+    apply div_characterized_toNat_of_eq_udiv_of_eq_umod_of_lt <;> assumption
+  · intros h
+    apply div_characterized_of_mul_add_of_lt <;> assumption
+
+/-# Tons of Lemmas for Proving Bitblasting Correct -/
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:553]:
```suggestion
/-! # Tons of Lemmas for Proving Bitblasting Correct -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  ext i
+  simp
+
+/-- If `y ≤ x`, then `x - y` does not overflow, and `(x - y).toNat = x.toNat - y.toNat`. -/
+theorem toNat_sub_eq_toNat_sub_toNat_of_le {x y : BitVec w} (h : y ≤ x) :
+    (x - y).toNat = x.toNat - y.toNat := by
+  rw [BitVec.le_def] at h
+  simp only [toNat_sub]
+  simp only [show 2 ^ w - y.toNat + x.toNat = 2 ^ w + (x.toNat - y.toNat) by omega, add_mod_left]
+  rw [Nat.mod_eq_of_lt (by omega)]
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:566]: These belong in the general Lemmas file

Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean:566]: The next few lemmas as well, please check all of them

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    (qr : DivRemInput w) : Prop where
+  hwr : wr ≤ w
+  hwn : wn ≤ w
+  hwrn : wr + wn = w
+  hd : 0 < d
+  hrd : qr.r.toNat < d.toNat
+  hrwr : qr.r.toNat < 2^wr
+  hqwr : qr.q.toNat < 2^wr
+  hdiv : n.toNat >>> wn = d.toNat * qr.q.toNat + qr.r.toNat
+
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:644]:
```suggestion
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean:771]: Ah, it's not really concatenating, it's shifting and concatenating, IIUC. You might want to change the name to reflect that, and include a docstring that emphasizes the difference with `concatBit`

Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean:771]: Also, this feels like it should be moved to the general definitions file, and its lemmas to `Lemmas`

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+/-- The value of shifting by `wn - 1` equals
+shifting by `wn` and grabbing the lsb at (wn - 1) -/
+theorem ShiftSubtractInput.toNat_n_shiftr_wl_minus_one_eq_n_shiftr_wl_plus_nmsb
+    (qr : ShiftSubtractInput w) (h : qr.lawful wr wn n d):
+    n.toNat >>> (wn - 1) = (n.toNat >>> wn) * 2 + (n.getLsb (wn - 1)).toNat := by
+  have hn := ShiftSubtractInput.n_shiftr_wl_minus_one_eq_n_shiftr_wl_or_nmsb (qr := qr) h
+  obtain hn : (n >>> (wn - 1)).toNat = ((n >>> wn).concatBit' (n.getLsb (wn - 1))).toNat := by
+    simp [hn]
+  simp at hn
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:844]: non-terminal simp

**Review by alexkeizer — CHANGES_REQUESTED** [review]
I did a pass up to around line 700, I think this still needs a fair amount of polish before we send it off to Kim.

I haven't yet scrutinized the proofs much, mostly I've looked at the names and statements

File: src/Init/Data/BitVec/Bitblast.lean (hunk 10 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Moved.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 13]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  · have hcontra : d = 0#0 := by apply Subsingleton.elim
+    rw [hcontra] at hd
+    simp at hd
+  · omega
+
+def DivRemInput.init (w : Nat) :
+    DivRemInput w := {
+  q := 0#w
+  r := 0#w
+}
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: @alexkeizer not sure I understand the proposal.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 14]
```diff
@@ -429,6 +432,640 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
   · simp [of_length_zero]
   · simp [shiftLeftRec_eq]
 
+/- # udiv/urem recurrence for bitblasting -/
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Fixed, thanks!

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Moved.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 15]
```diff
@@ -429,6 +432,545 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+- wr, the effective bitwidth of the reminder
+- wn, the effective bitwidth of the dividend.
+- We have the invariant that wn + wr = w.
+
+See that when it is called, we will know that:
+  - r < [2^wr = 2^(w - wn)]
+    which allows us to safely shift left, since it is of length n.
+    In particular, since 'wn' decreases in the course of the recursion,
+    will will allow larger and larger values, and at the step where 'wn = 0',
+    we will have `r < 2^w`, which is no longer sufficient to allow for a shift left.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:920]: will will

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -1232,6 +1245,9 @@ theorem getLsb_concat (x : BitVec w) (b : Bool) (i : Nat) :
     (concat x a) ^^^ (concat y b) = concat (x ^^^ y) (xor a b) := by
   ext i; cases i using Fin.succRecOn <;> simp
 
+/-! ### shiftConcat -/
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1249]: Nothing here?

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:1249]: thanks, deleted

File: src/Init/Data/BitVec/Bitblast.lean (hunk 15 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:920]: Fixed, thanks.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 17]
```diff
@@ -28,7 +28,10 @@ https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/Bitwise.lean.
 
 -/
 
-set_option linter.missingDocs true
+-- temporary disable the missing docs to get CI green during patch development
+set_option linter.unusedVariables false
+set_option linter.missingDocs false
+--set_option linter.missingDocs true
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:34]: Can these now be dropped?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -429,6 +432,545 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+the relationship in terms of the `{n, d, q, r}.toNat` values, and then prove that the relationship
+holds for the bitvector values.
+
+References:
+- Fast 32-bit Division on the DSP56800E: Minimized nonrestoring division algorithm by David Baca
+- Bitwuzla sources for bitblasting.h
+-/
+
+
+/-- TODO: This theorem surely exists somewhere, but I can't find it. -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:463]: This needs to move into its place. And you can probably drop this comment if you cannot find it.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -429,6 +432,545 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    2 * a + y - x < x := by omega
+
+/--
+If `n : Bitvec w` has only the low `k < w` bits set,
+then `(n <<< 1 | b)` does not overflow, and we can compute its value
+as a multiply and add.
+-/
+theorem toNat_shiftLeft_or_zeroExtend_ofBool_eq (w : Nat)
+    (r : BitVec w)
+    (b : Bool)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:698]: Should some of these arguments be implicit? (check other theorems, too)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 20]
```diff
@@ -429,6 +432,545 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  (hk : k < w) (hx : x.toNat < 2 ^ k) :
+    (shiftConcat x b).toNat < 2 ^ (k + 1) := by
+  rw [toNat_shiftConcat_eq x b k hk hx]
+  apply mul_two_add_lt_two_pow_of_lt_two_pow_of_lt_two hx
+  · rcases b with rfl | rfl <;> decide
+  · omega
+
+
+/-- The value of shifting by `wn - 1` equals
+shifting by `wn` and grabbing the lsb at (wn - 1) -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:751]:
```suggestion

/-- The value of shifting by `wn - 1` equals
shifting by `wn` and grabbing the lsb at (wn - 1) -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 21]
```diff
@@ -429,6 +432,545 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+        rw [Nat.mul_assoc]
+      ]
+      omega
+    case neg.hwn =>
+      have := h.hwn_lt
+      have := h.hwn
+      omega
+
+
+/- ### Core divsion recurrence.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:908]:
```suggestion

/- ### Core divsion recurrence.
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 18 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:463]: @tobiasgrosser It feels a bit too special case to move into `Nat`, but I'm happy to move it...

File: src/Init/Data/BitVec/Bitblast.lean [hunk 22]
```diff
@@ -429,6 +432,545 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+theorem divRec'_zero (qr : DivRemInput w) :
+  divRec' w w 0 n d qr  = qr := rfl
+
+@[simp]
+theorem divRec'_succ (wn : Nat) (qr : DivRemInput w) :
+  divRec' w wr (wn + 1) n d qr =
+    divRec' w (wr + 1) wn n d (divSubtractShift n d (wn + 1) (ShiftSubtractInput.ofDivRemInput qr)) := rfl
+
+
+theorem divRec'_correct {n d : BitVec w} (qr : DivRemInput w)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:943]:
```suggestion

theorem divRec'_correct {n d : BitVec w} (qr : DivRemInput w)
```

Check the newlines in general.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 23]
```diff
@@ -469,15 +1011,16 @@ theorem sshiftRightRec_eq (x : BitVec w₁) (y : BitVec w₂) (n : Nat) :
...
+      toNat_truncate, toNat_ofBool, getLsb_sshiftRight, Nat.reduceAdd, truncate_one]
   case succ n ih =>
     simp only [sshiftRightRec_succ_eq, and_twoPow, ih]
     by_cases h : y.getLsb (n + 1)
     · rw [zeroExtend_truncate_succ_eq_zeroExtend_truncate_or_twoPow_of_getLsb_true h,
         sshiftRight'_or_of_and_eq_zero (by simp), h]
       simp
     · rw [zeroExtend_truncate_succ_eq_zeroExtend_truncate_of_getLsb_false (i := n + 1)
-        (by simp [h])]
+        (by simp only [h])]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1022]: The changes in this file are unrelated and actually not needed. Drop them?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 24]
```diff
@@ -815,6 +815,19 @@ theorem ushiftRight_or_distrib (x y : BitVec w)  (n : Nat) :
 theorem ushiftRight_zero_eq (x : BitVec w) : x >>> 0 = x := by
   simp [bv_toNat]
 
+
+/--
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:819]:
```suggestion
/--
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 25]
```diff
@@ -815,6 +815,19 @@ theorem ushiftRight_or_distrib (x y : BitVec w)  (n : Nat) :
...
+Shifting right by `n < w` yields a bitvector whose value
+is less than `2^(w - n)`
+-/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:822]:
```suggestion
is less than `2^(w - n)`.
-/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 26]
```diff
@@ -1449,6 +1465,11 @@ protected theorem lt_of_le_ne (x y : BitVec n) (h1 : x <= y) (h2 : ¬ x = y) : x
   simp
   exact Nat.lt_of_le_of_ne
 
+theorem le_iff_not_lt {x y : BitVec w} : (¬ x < y) ↔ y ≤ x := by
+  constructor <;>
+    (intro h; simp only [lt_def, Nat.not_lt, le_def] at h ⊢; omega)
+
+
 /-! ### intMax -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1473]:
```suggestion

/-! ### intMax -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 27]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+@[simp]
+theorem divRec'_zero (qr : DivRemInput w) :
+  divRec' w w 0 n d qr  = qr := rfl
+
+@[simp]
+theorem divRec'_succ (wn : Nat) (qr : DivRemInput w) :
+  divRec' w wr (wn + 1) n d qr =
+    divRec' w (wr + 1) wn n d (divSubtractShift n d (wn + 1) (ShiftSubtractInput.ofDivRemInput qr)) := rfl
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:940]:
```suggestion
    divRec' w (wr + 1) wn n d (divSubtractShift n d (wn + 1) (ShiftSubtractInput.ofDivRemInput qr)) := rfl
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 28]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    case neg.hwrn =>
+      have := h.hwrn
+      have := qr.wr_add_one_le_w h
+      omega
+    case neg.hd =>
+      have := h.hd
+      assumption
+    case neg.hrd =>
+      simp only
+      simp [BitVec.lt_def] at rltd
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:852]: Non-terminal simp

File: src/Init/Data/BitVec/Bitblast.lean [hunk 29]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+      exact mul_div_right q.toNat hd
+    · exact Nat.dvd_mul_right d.toNat q.toNat
+    · exact hrd
+    · exact hd
+  · apply BitVec.eq_of_toNat_eq
+    rw [toNat_umod]
+    replace hdqnr : (d.toNat * q.toNat + r.toNat) % d.toNat = n.toNat % d.toNat := by
+      simp [hdqnr]
+    rw [Nat.add_mod, Nat.mul_mod_right] at hdqnr
+    simp at hdqnr
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:498]: non-terminal simp

File: src/Init/Data/BitVec/Bitblast.lean [hunk 30]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+/-- The value of shifting by `wn - 1` equals
+shifting by `wn` and grabbing the lsb at (wn - 1) -/
+theorem ShiftSubtractInput.toNat_n_shiftr_wl_minus_one_eq_n_shiftr_wl_plus_nmsb
+    (qr : ShiftSubtractInput w) (h : qr.Lawful wr wn n d):
+    n.toNat >>> (wn - 1) = (n.toNat >>> wn) * 2 + (n.getLsb (wn - 1)).toNat := by
+  have hn := ShiftSubtractInput.n_shiftr_wl_minus_one_eq_n_shiftr_wl_or_nmsb (qr := qr) h
+  obtain hn : (n >>> (wn - 1)).toNat = ((n >>> wn).shiftConcat (n.getLsb (wn - 1))).toNat := by
+    simp [hn]
+  simp at hn
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:758]: non-terminal simp

File: src/Init/Data/BitVec/Bitblast.lean [hunk 31]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  } else {
+    q := q,
+    r := r' - d
+  }
+
+def divSubtractShiftProof (qr : ShiftSubtractInput w) (h : qr.Lawful  wr wn n d) :
+    DivRemInput.Lawful w (wr + 1) (wn - 1) n d (divSubtractShift n d wn qr) := by
+  simp only [divSubtractShift, decide_eq_true_eq]
+  by_cases rltd : shiftConcat qr.r (n.getLsb (wn - 1)) < d
+  · simp [rltd]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:794]: non-terminal simp

File: src/Init/Data/BitVec/Bitblast.lean [hunk 32]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    case pos.hwrn =>
+      have := h.hwrn
+      have := qr.wr_add_one_le_w h
+      omega
+    case pos.hd =>
+      have := h.hd
+      assumption
+    case pos.hrd =>
+      simp only
+      simp [BitVec.lt_def] at rltd
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:809]: non-terminal simp

File: src/Init/Data/BitVec/Bitblast.lean [hunk 33]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+      assumption
+    case pos.hrwr =>
+      simp [rltd]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:812]: non-terminal sim

File: src/Init/Data/BitVec/Bitblast.lean [hunk 34]
```diff
@@ -429,6 +432,544 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+      rw [Nat.add_mul]
+      simp [show d.toNat * (qr.q.toNat * 2) = d.toNat * qr.q.toNat * 2 by
+        rw [Nat.mul_assoc]
+      ]
+      omega
+    case pos.hwn =>
+      have := h.hwn_lt
+      have := h.hwn
+      omega
+  · simp [rltd]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:837]: non-terminal simp

File: src/Init/Data/BitVec/Lemmas.lean [hunk 35]
```diff
@@ -1703,6 +1724,11 @@ theorem twoPow_zero {w : Nat} : twoPow w 0 = 1#w := by
 theorem getLsb_one {w i : Nat} : (1#w).getLsb i = (decide (0 < w) && decide (0 = i)) := by
   rw [← twoPow_zero, getLsb_twoPow]
 
+theorem shiftLeft_eq_mul_twoPow (x : BitVec w) (n : Nat) :
+    x <<< n = x * (BitVec.twoPow w n) := by
+  ext i
+  simp only [getLsb_shiftLeft, Fin.is_lt, decide_True, Bool.true_and, mul_twoPow_eq_shiftLeft]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1730]: Drop the `only`?

File: src/Init/Data/BitVec/Bitblast.lean (hunk 18 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:463]: Then just drop the comment.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:463]: Also, there are too many linebreaks before this theorem.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 36]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    n.umod d = r := by
+  apply BitVec.eq_of_toNat_eq
+  rw [toNat_umod]
+  replace hdqnr : (d.toNat * q.toNat + r.toNat) % d.toNat = n.toNat % d.toNat := by
+    simp [hdqnr]
+  rw [Nat.add_mod, Nat.mul_mod_right] at hdqnr
+  simp only [Nat.zero_add, mod_mod] at hdqnr
+  replace hrd : r.toNat < d.toNat := by
+    rw [BitVec.lt_def] at hrd
+    exact hrd -- TODO: golf
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:503]: TODO!

File: src/Init/Data/BitVec/Bitblast.lean [hunk 37]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+-/
+
+/--
+The input to the shift subtractor is a legal input to `divrem`, and we also need to have an
+input bit to perform shift subtraction on, and thus we need `0 < wn`.
+-/
+structure DivModState.LawfulShiftSubtract (w wr wn : Nat) (n d : BitVec w) (qr : DivModState w)
+  extends DivModState.Lawful w wr wn n d qr : Type where
+  /-- Only perform a round of shift-subtract if we have dividend bits. -/
+  hwn_lt : 0 < wn
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:608]: Just merge this into a single docstring

File: src/Init/Data/BitVec/Bitblast.lean [hunk 38]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+/--
+In the shift subtract input, the dividend is at least one bit long (`wn > 0`), so
+the remainder has bits to be computed (`wr < w`).
+-/
+def DivModState.wr_lt_w {qr : DivModState w} (h : qr.LawfulShiftSubtract wr wn n d) : wr < w := by
+  have hwrn := h.hwrn
+  have hwn_lt := h.hwn_lt
+  omega
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:617]:
```suggestion
  cases h <;> omega
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 39]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  /-- The sum of widths of the dividend and remainder is `w`. -/
+  hwrn : wr + wn = w
+  /-- The divisor is positive. -/
+  hd : 0 < d
+  /-- The remainder is strictly less than the divisor. -/
+  hrd : qr.r.toNat < d.toNat
+  /-- The remainder is morally a `Bitvec wr`, and so has value less than `2^wr`. -/
+  hrwr : qr.r.toNat < 2^wr
+  /-- The quotient is morally a `Bitvec wr`, and so has value less than `2^wr`. -/
+  hqwr : qr.q.toNat < 2^wr
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:536]: `hwrn`/`hrwr`/`hqwr` are rather hard to decipher. I guess there is a writeability downside to longer names, but please do have a think about alternative names at least

File: src/Init/Data/BitVec/Basic.lean [hunk 40]
```diff
@@ -610,6 +610,13 @@ result of appending a single bit to the front in the naive implementation).
     That is, the new bit is the least significant bit. -/
 def concat {n} (msbs : BitVec n) (lsb : Bool) : BitVec (n+1) := msbs ++ (ofBool lsb)
 
+/--
+`x.shiftConcat b` shifts all bits of `x` to the left by `1` and sets the least significant bit to `b`.
+It is a non dependent version of `concat` that does not change the total bitwidth.
+-/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean:616]:
```suggestion
It is a non-dependent version of `concat` that does not change the total bitwidth.
-/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 41]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+/-- Structure that maintains the state of recursive `divrem` calls. -/
+structure DivModState (w : Nat) : Type where
+  /-- The current quotient. -/
+  q : BitVec w
+  /-- The current remainder. -/
+  r : BitVec w
+
+/-- A `DivModState` is lawful if the remainder width `wr` plus the dividiend width `wn` equals `w`,
+and that the bitvectors `r` and `n` have values in these bounds given these bitwidths.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:517]:
```suggestion
/-- A `DivModState` is lawful if the remainder width `wr` plus the dividend width `wn` equals `w`,
and that the bitvectors `r` and `n` have values in these bounds given these bitwidths.
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 42]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+@[bv_toNat]
+theorem toNat_shiftConcat {x : BitVec w} {b : Bool} : (x.shiftConcat b).toNat =
+    (x.toNat <<< 1 + b.toNat) % 2 ^ w  := by
+  simp only [shiftConcat]
+  rw [← add_eq_or_of_and_eq_zero] -- Due to `add_eq_or_of_and_eq_zero`, this must live in `Bitblast`.
+  · simp
+  · ext i
+    simp only [getLsb_and, getLsb_shiftLeft, Fin.is_lt, decide_True, Bool.true_and,
+      getLsb_zeroExtend, getLsb_ofBool, getLsb_zero, and_eq_false_imp, and_eq_true, not_eq_true',
+      decide_eq_false_iff_not, Nat.not_lt, decide_eq_true_eq, and_imp]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:691]: This can become a `simp`

File: src/Init/Data/BitVec/Bitblast.lean [hunk 43]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  if r' < d
+  then {
+    q := qr.q.shiftConcat false, -- If `r' < d`, then we do not have a quotient bit.
+    r := r'
+  } else {
+    q := qr.q.shiftConcat true, -- If `r' ≥ d`, then we have a quotient bit.
+    r := r' - d -- we subtract to maintain the invariant that `r < d`.
+  }
+
+-- TODO: find out what hypotheses I need from `qr.Lawful` so it stands alone.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:712]: TODO

File: src/Init/Data/BitVec/Bitblast.lean [hunk 44]
```diff
@@ -429,6 +429,424 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    case pos.hrwr => apply toNat_shiftConcat_lt_of_lt_of_lt_two_pow <;> omega
+    case pos.hqwr => apply toNat_shiftConcat_lt_of_lt_of_lt_two_pow <;> omega
+    case pos.hdiv =>
+      simp only [qr.toNat_n_shiftr_wl_minus_one_eq_n_shiftr_wl_plus_nmsb h
+      , toNat_shiftConcat_eq_of_lt_of_lt_two_pow
+        (hk := qr.wr_lt_w h)
+        (hx := h.hrwr)
+      , h.hdiv
+      , toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hqwr, Nat.add_mul, toNat_false, Nat.add_zero
+      , this]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:761]: The way this simp argument list is written is rather unusual. Can you just wrap it normally?

File: src/Init/Data/Bool.lean [hunk 45]
```diff
@@ -353,16 +353,17 @@ theorem and_or_inj_left_iff :
 /-- convert a `Bool` to a `Nat`, `false -> 0`, `true -> 1` -/
 def toNat (b : Bool) : Nat := cond b 1 0
 
-@[simp] theorem toNat_false : false.toNat = 0 := rfl
+@[simp, bv_toNat] theorem toNat_false : false.toNat = 0 := rfl
 
-@[simp] theorem toNat_true : true.toNat = 1 := rfl
+@[simp, bv_toNat] theorem toNat_true : true.toNat = 1 := rfl
```
Comment (tobiasgrosser) [inline src/Init/Data/Bool.lean:358]: Why would a theorem in Bool be part of `bv_toNat`? I would drop this here.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 38 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:617]: No :P That's a cool abuse of `cases` to expose the inhabitants, but, uh.

File: src/Init/Data/Bool.lean (hunk 45 above)
Comment (bollu) [reply src/Init/Data/Bool.lean:358]: @tobiasgrosser because it allows `bv_omega` to decide things that are to do with bitvectors. Concretely, due to the addition of theorems like `concatBit` which take a `(b: Bool)` as argument, it's super duper useful to have this be part of `bv_omega`. Morally, a boolean is a width 1 bitvector, so I'm comfortable saying that this falls in its purview.

Comment (tobiasgrosser) [reply src/Init/Data/Bool.lean:358]: But does `bv_omega` not run the std simp-set as well as part of its loop?

Comment (bollu) [reply src/Init/Data/Bool.lean:358]: Nope!

File: src/Init/Data/BitVec/Bitblast.lean (hunk 44 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Done!

File: src/Init/Data/BitVec/Bitblast.lean (hunk 39 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean]: Cleaned this up.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 42 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:685]: This can become simp.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 46]
```diff
@@ -429,6 +429,417 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    case pos.hqWidth => apply toNat_shiftConcat_lt_of_lt_of_lt_two_pow <;> omega
+    case pos.hdiv =>
+      simp [qr.toNat_shiftRight_sub_one_eq h,
+      toNat_shiftConcat_eq_of_lt_of_lt_two_pow
+        (hk := qr.wr_lt_w h)
+        (hx := h.hrWidth),
+      h.hdiv,
+      toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hqWidth, Nat.add_mul, toNat_false, Nat.add_zero,
+      this]
+      omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:755]: This is a surprising way to format the simp list. Can you just wrap at the end of the line.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 47]
```diff
@@ -429,6 +429,417 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+    case neg.hqWidth =>
+      apply toNat_shiftConcat_lt_of_lt_of_lt_two_pow <;> omega
+    case neg.hdiv =>
+      have rltd' := (BitVec.le_iff_not_lt.mp rltd)
+      simp only [qr.toNat_shiftRight_sub_one_eq h]
+      simp only [BitVec.toNat_sub_eq_toNat_sub_toNat_of_le rltd']
+      simp only [toNat_shiftConcat_eq_of_lt_of_lt_two_pow (hk := qr.wr_lt_w h) (hx := h.hrWidth)]
+      simp only [BitVec.le_def, toNat_shiftConcat_eq_of_lt_of_lt_two_pow (hk := qr.wr_lt_w h) (hx := h.hrWidth)] at rltd'
+      simp only [toNat_shiftConcat_eq_of_lt_of_lt_two_pow (hk := qr.wr_lt_w h) (hx := h.hqWidth),
+        h.hdiv, Nat.mul_add]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:781]: Is there a reason this is not a single simp only?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 48]
```diff
@@ -429,6 +429,417 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  apply DivModState.umod_eq_of_lawful_zero this
+
+@[simp]
+theorem divRec_succ' (wn : Nat) (qr : DivModState w) :
+    divRec w wr (wn + 1) n d qr =
+    let r' := shiftConcat qr.r (n.getLsb wn)
+    let input : DivModState w :=
+      if r' < d then ⟨qr.q.shiftConcat false, r'⟩ else ⟨qr.q.shiftConcat true, r' - d⟩
+    divRec w (wr + 1) wn n d input := by
+    simp only [divRec_succ, divSubtractShift, Nat.add_one_sub_one, decide_eq_true_eq]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:841]: Terminal simp-only? Is this necessary or should this just be simp?

File: src/Init/Data/BitVec/Bitblast.lean (hunk 47 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:777]: Yes, because the interleaved one is ` at rltd'`.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 48 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:837]: Cleaned, thanks.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 49]
```diff
@@ -429,6 +429,413 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  · simp only [rltd, ↓reduceIte]
+    constructor <;> try bv_omega
+    case pos.hrWidth => apply toNat_shiftConcat_lt_of_lt_of_lt_two_pow <;> omega
+    case pos.hqWidth => apply toNat_shiftConcat_lt_of_lt_of_lt_two_pow <;> omega
+    case pos.hdiv =>
+      simp [qr.toNat_shiftRight_sub_one_eq h,
+        toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hrWidth,
+        h.hdiv,
+        toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hqWidth,
+        this]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:750]:
```suggestion
      simp [qr.toNat_shiftRight_sub_one_eq h,
        toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hrWidth, h.hdiv,
        toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hqWidth, this]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 50]
```diff
@@ -429,6 +429,411 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+@[bv_toNat]
+theorem toNat_shiftConcat {x : BitVec w} {b : Bool} : (x.shiftConcat b).toNat =
+    (x.toNat <<< 1 + b.toNat) % 2 ^ w  := by
+  simp only [shiftConcat]
+  rw [← add_eq_or_of_and_eq_zero] -- Due to `add_eq_or_of_and_eq_zero`, this must live in `Bitblast`.
+  · simp
+  · ext i
+    simp
+    omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:684]: DOes this belong in `BitVec/Lemmas.lean`? Also, this should have @[simp] as well.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 51]
```diff
@@ -429,6 +429,411 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+/-- Structure that maintains the state of recursive `divrem` calls. -/
+structure DivModState (w : Nat) : Type where
+  /-- The current quotient. -/
+  q : BitVec w
+  /-- The current remainder. -/
+  r : BitVec w
+
+/-- A `DivModState` is lawful if the remainder width `wr` plus the dividend width `wn` equals `w`,
+and that the bitvectors `r` and `n` have values in these bounds given these bitwidths.
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:516]:
```suggestion
and the bitvectors `r` and `n` have values in the bounds given by bitwidths `wr`, resp. `wn`.
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 50 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:684]: Sadly not, as the comment says: `Due to `add_eq_or_of_and_eq_zero`, this must live in `Bitblast`. `

File: src/Init/Data/BitVec/Lemmas.lean [hunk 52]
```diff
@@ -966,6 +966,17 @@ theorem ushiftRight_or_distrib (x y : BitVec w)  (n : Nat) :
 theorem ushiftRight_zero_eq (x : BitVec w) : x >>> 0 = x := by
   simp [bv_toNat]
 
+/--
+Shifting right by `n < w` yields a bitvector whose value is less than `2^(w - n)`.
+-/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:971]:
```suggestion
Shifting right by `n < w` yields a bitvector whose value is less than `2 ^ (w - n)`.
-/
```

**Comment by alexkeizer** [comment]
@bollu You might've messed up a rebase on main or something: the diff contains commits you didn't author. Please clean that up!
